US05952331
A flask containing 6-methoxy-1,2,3,4-tetrahydroquinoline (1.33 g), 2-amino-4-chloro-6-methylpyrimidine (1.00 g), sulfuric acid (0.6 g), and 100 mL of water was heated on a steam bath for 2 hours. The solution was then cooled to room temperature and treated with ammonium hydroxide until the solution was basic (pH 8-9). The resultant solid, which precipitated from solution, was collected by filtration and recrystallized from ethyl alcohol to give 2-amino-4-(6-methoxy-3,4,-dihydro-2H-quinolin-1-yl)-6-methylpyrimidine (0.93 g), m.p. 175.2-175.9° C.

reactant | 6-methoxy-1,2,3,4-tetrahydroquinoline | 1.33 g | COC=1C=C2CCCNC2=CC1 | C10H13NO
reactant | 2-amino-4-chloro-6-methylpyrimidine | 1.00 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | sulfuric acid | 0.6 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 100 mL | O | H2O
product | 2-amino-4-(6-methoxy-3,4,-dihydro-2H-quinolin-1-yl)-6-methylpyrimidine | 0.93 g | NC1=NC(=CC(=N1)N1CCCC2=CC(=CC=C12)OC)C | C15H18N4O
